Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Tegaderm Frame Style / Prinivil / Reglan
 
Attending: ___
 
Chief Complaint:
Diabetic foot ulcer x 2 weeks
 
Major Surgical or Invasive Procedure:
Ulcer excision and left fifth metatarsal phalangeal joint 
resection (___)
 
History of Present Illness:
___ w DM1, CAD s/p CABGx4, CKD s/p renal transplant ___ years ago, 
PVD s/p right popliteal stent  presenting with a worsening 
diabetic foot ulcer over lat aspect L ___ MTP over the last ___ 
weeks. 
.
He was seen by the podiatry attending today who saw visible bone 
at base. Podiatry recommended an inpatient admission, silver 
sulfadine, and vascular consult for PAD. He has been on 
doxycycline x 2 days and has been vomiting w/o abdominal pain.
.  ___ man with necrotic foot ulcer and underlying osteo, DMI 
s/p renal t/p, lower extremity vascular dz with recurrent foot 
ulcers for which he's been admitted in the past. He's followed 
closely by podiatry and vascular. 1 week ago he stubbed his toe 
in the bathroom and developed an ulcer over the left later MPP 
joint. He's followed by Dr. ___ as an ___ who noticed a 
necrotic foot ulcer with bone present and recommended admission. 
Podiatry can't handle medically complicated patient like this. 
Vascular wrote note 1 month ago stating no need for urgent 
revascularization. X-ray shows osteo of the distal ___ 
metatarsal. Blood cultures are sent. Given vancomcyin. No prior 
cultures in our system. No fluids, no other meds, 1 PIV. Was 
started on oral vibramycin then started vomitting on this. Last 
set of vitals to be paged. 

In ED, vitals were as follows: 98.6 69 131/49 18 100%. .  
Prior to transfer, VS 98.9, 72, 160/63, 16, 96RA
.  
ROS: mild SOB. No CP/cough. No diarrhea. Denies abdominal pain 
(although per ED signout, had RUQ pain). No fevers  
 
Past Medical History:
-DVT (multiple) s/p IVC filter ___ on coumadin for life
-CAD s/p CABG and MI; s/p stents
-Chronic dCHF
-HTN
-DM1 with retinopathy, neuropathy, ESRD, R charcot foot in ___
-s/p cadaveric renal transplant in ___ on prednisone and
tacrolimus
-ORIF right arm
-chronic foot ulcer
-amputated right toe
-MRSA right foot with osteomyelitis
-C diff colitis ___
-cryptococcal pna in ___, now on fluconazole suppressive
therapy
-lung nodules
-PVD
-GERD
-b/l cataract surgery,
-s/p pop artery angioplasty in ___
-cellulitis
-chronic osteomyelitis followed in ID clinico
-Anemia
-Arteriogram showing R fem/tib and L tib dz and vascular plans 
to consider intervention as outpatient.
 
Social History:
___
Family History:
DM type II in father and paternal grandfather. Mother had "heart 

disease".

 
Physical Exam:
Triage : 98.6 69 131/49 18 100%. .  
transfer: T 98.9, 72, 160/63, 16, 96RA
GENERAL -  NAD, comfortable, appropriate  
HEENT - PERRLA, sclerae anicteric, OP clear, dry mucus membranes 
 
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - soft/NT/ND, no masses or HSM, no rebound/guarding  
Back: no flank tenderness  
EXTREMITIES - foot ulcer over lat aspect L ___ MTP. L foot w/ 
lateral aspect L ___ MTP, necrotic edge and visible bone and 
wound bed. Mild surrounding erythema.
SKIN - no rashes or lesions, + bruises presumably from falls  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, 
 
Pertinent Results:
___ 03:09PM BLOOD WBC-5.9# RBC-4.16* Hgb-11.8* Hct-36.5* 
MCV-88 MCH-28.5 MCHC-32.5 RDW-14.9 Plt ___
___ 06:30AM BLOOD WBC-2.4* RBC-3.55* Hgb-9.9* Hct-30.0* 
MCV-84 MCH-27.8 MCHC-32.9 RDW-15.0 Plt ___
___ 03:09PM BLOOD Neuts-79.7* Lymphs-13.7* Monos-4.3 
Eos-2.1 Baso-0.3
___ 06:30AM BLOOD Neuts-59.6 ___ Monos-9.6 Eos-5.6* 
Baso-0.2
___ 04:45PM BLOOD ___ PTT-27.3 ___
___ 06:30AM BLOOD ___ PTT-29.5 ___
___ 04:45PM BLOOD Glucose-341* UreaN-18 Creat-1.5* Na-136 
K-5.0 Cl-100 HCO3-28 AnGap-13
___ 06:30AM BLOOD Glucose-121* UreaN-12 Creat-1.1 Na-144 
K-4.0 Cl-109* HCO3-29 AnGap-10
___ 08:40AM BLOOD ALT-12 AST-14 LD(LDH)-194 AlkPhos-66 
TotBili-0.3
___ 06:30AM BLOOD ALT-17 AST-29 LD(LDH)-206 AlkPhos-64 
TotBili-0.2
___ 09:19AM BLOOD %HbA1c-9.8* eAG-235*
___ 04:20AM BLOOD CRP-28.3*
___ 06:00AM BLOOD Vanco-14.5
___ 06:35AM BLOOD Vanco-17.1
 
Brief Hospital Course:
MR. ___ was a ___ year-old man with DM1, CAD s/p CABGx4, CKD 
s/p renal transplant ___ years ago, PVD s/p right popliteal stent, 
recurrent foot ulcers who presented with a worsening diabetic 
foot ulcer over lateral aspect of the left ___ MTP with 
underlying osteomyelitis requiring left ___ metatarsal 
amputation.   

# Left foot ulcer with underlying osteomyelitis.
The patient has poor substrate for infection given h/o of DM and 
revascularized PVD as well as recent trauma, and an 
immunocompromised host. He displayed no systemic signs of 
infection. He was started on vancomycin and zosyn for a 
polymicrobial diabetic foot infection. Vascular surgery was 
consulted regarding need for revascularization before operation 
to remove infected bone. ABI with PVR were not suggestive of 
need for revascularization. Patient was taken to operating room 
by podiatry for removal of left fifth metatarsal given 
osteomyelitis. Tissue from surgery showing swarming Proteus and 
corynebacterium. 

He will continue on vancomycin and ertapenem to complete a 6 
week course with projected stop date of ___. 

He also has many wounds on his lower extremity documented at 
admission that will need further wound care as outlined in the 
discharge planning. 
 
#. Type 1 Diabetes (A1c 9.8): Blood glucose has been elevated at 
home per patient. He takes 30 units of lantus daily at noon. 
Outpatient optimization is advised to meet better A1c goal.  

# Acute kidney injury: Patient Cr on admission 1.5 (baseline 
1.2) in setting of pre-renal ___ that resolved with gentle 
hydration and PO intake. 
  
#. Coronary artery disease and peripheral vascular disease
Patient was continued on plavix, aspirin, statin, lasix 40 mg PO 
BID, metoprolol.
  
#. Renal transplant 
Patient was continued on home medications including tacrolimus, 
prednisone, bactrim, and fluconazole. 
 
# History of DVT
Patient will need anticoagulation for life with warfarin given 
prior DVT. 
His INR at discharge was 2.2 on warfarin 3mg PO qD. He will need 
weekly monitoring of INR.
 
Medications on Admission:
1. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
5. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Tablet(s) 
7. Lantus 100 unit/mL Solution Sig: ___ (36)  
Subcutaneous at bedtime.  
8. iron polysacch complex-B12-FA 150-25-1 mg-mcg-mg Capsule Sig: 
One (1) Capsule PO once a day.  
9. isosorbide mononitrate 60 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
10. metoprolol tartrate 25 mg Tablet Sig: Three (3) Tablet PO 
BID (2 times a day).  
11. Nitrostat 0.4 mg Tablet, Sublingual Sig: One (1)  Sublingual 
Q15min as needed for chest pain.  
12. Novolog 100 unit/mL Solution Sig: ___ units  Subcutaneous 
four times a day: Per Slinding Scale see attached.  
13. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
14. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
15. Actonel 35 mg Tablet Sig: One (1) Tablet PO once a week.  
16. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. tacrolimus 1 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
18. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  
19. warfarin 1 mg Tablet Sig: Three (3) Tablet PO Once Daily at 
4 ___.  
20. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
21. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic DAILY 
(Daily).  
 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. atorvastatin 40 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. fluconazole 200 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours).  
5. fludrocortisone 0.1 mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Tablet(s) 
7. Lantus 100 unit/mL Solution Sig: ___ (36)  
Subcutaneous at bedtime.  
8. iron polysacch complex-B12-FA 150-25-1 mg-mcg-mg Capsule Sig: 
One (1) Capsule PO once a day.  
9. isosorbide mononitrate 60 mg Tablet Extended Release 24 hr 
Sig: One (1) Tablet Extended Release 24 hr PO DAILY (Daily).  
10. metoprolol tartrate 25 mg Tablet Sig: Three (3) Tablet PO 
BID (2 times a day).  
11. Nitrostat 0.4 mg Tablet, Sublingual Sig: One (1)  Sublingual 
Q15min as needed for chest pain.  
12. Novolog 100 unit/mL Solution Sig: ___ units  Subcutaneous 
four times a day: Per Slinding Scale see attached.  
13. oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.  
14. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
15. Actonel 35 mg Tablet Sig: One (1) Tablet PO once a week.  
16. sulfamethoxazole-trimethoprim 400-80 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
17. tacrolimus 1 mg Capsule Sig: One (1) Capsule PO Q12H (every 
12 hours).  
18. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  
19. warfarin 1 mg Tablet Sig: Three (3) Tablet PO Once Daily at 
4 ___.  
20. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
21. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic DAILY 
(Daily).  
22. ertapenem 1 gram Recon Soln Sig: One (1)  Intravenous once a 
day for 6 weeks: Porjected stop date is ___.  
23. vancomycin 1,000 mg Recon Soln Sig: One (1)  Intravenous 
once a day for 6 weeks: Projected stop date of ___.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: diabetic foot infection, left ___ metatarsal 
osteomyelitis
Secondary: type 1 diabetes 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted for a foot and underlying bone infection of 
your left foot. A piece of bone was removed, and you are being 
treated with antibiotics to treat the infection. You also were 
found to have the Flu. You recovered from the flu without 
trouble. You will go to rehab to get stronger. 
.
The following changes have been made to your home medications:
1. You have been STARTED on Vancomycin
2. You have been STARTED on Ertapenem
You will take these antibiotics to complete a ___nd 
follow up with the infectious disease clinic.
.
Please take your medications as prescribed and keep your 
outpatient appointments.
 
Followup Instructions:
___